US04260816
Sodium 4-[2-(1-naphthyloxy)ethylamino]benzoate
To a solution of 1.42 g. sodium methoxide in 250 ml. methanol is added 8.0 g. of 4-[2-(1-naphthyloxy)ethylamino]benzoic acid. After one-half hour, the mixture is concentrated under vacuum to a solid which is washed with methanol and then CH2Cl2. This solid is immediately dried in a vacuum oven to minimize absorption of moisture from the air.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-[2-(1-naphthyloxy)ethylamino]benzoic acid | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
solvent | methanol | CO | CH4O
product | Sodium 4-[2-(1-naphthyloxy)ethylamino]benzoate | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)[O-])C=C1.[Na+] | InChI=1S/C19H17NO3.Na/c21-19(22)15-8-10-16(11-9-15)20-12-13-23-18-7-3-5-14-4-1-2-6-17(14)18;/h1-11,20H,12-13H2,(H,21,22);/q;+1/p-1
